US04343811
(b) 5-Benzyloxy-3-phenyl-1H-2indole carboxylic acid ethylester
Twenty-six grams (92.4 m mole) of 5-hydroxy-3-phenyl-1H-2-indole carboxylic acid ethylester were refluxed for four days with 27.6 g of potassium carbonate and 11 ml (92.4 mole) of benzylbromide in 700 ml of methyl-ethylketone. After filtration and evaporation, the residue was chromatographed on silicagel (solvent: toluene).

reactant | 5-hydroxy-3-phenyl-1H-2-indole carboxylic acid ethylester | Twenty-six grams | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C1=CC=CC=C1)O | C17H15NO3
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 92.4 mole, 11 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methyl-ethylketone | 700 ml | CC(=O)CC | C4H8O
product | 5-Benzyloxy-3-phenyl-1H-2indole carboxylic acid ethylester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C1=CC=CC=C1)OCC1=CC=CC=C1 | C24H21NO3
